US05409902
Acetobromogalactose (2,3,4,6-tetra-O-acetyl-α-D-galactopyranosyl bromide) was mixed with allyl alcohol and mercuric cyanide via the Koenigs-Knorr glycosylation to obtain allyl β-D-galactopyranoside tetraacetate. This was followed by oxidation with 3-chloroperoxybenzoic acid in dichloromethane to obtain 2,3-epoxypropyl-β-D-galactopyranoside, 2,3,4,6-0-tetracetate.

reactant | Acetobromogalactose | CC(=O)OCC1C(C(C(C(O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
reactant | allyl alcohol | C(C=C)O | C3H6O
product | allyl β-D-galactopyranoside tetraacetate | C(C)(=O)O[C@H]1[C@H](OCC=C)O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C17H24O10
